### PR TITLE
[Merged by Bors] - feat: implement the Divisor of a Meromorphic Function

### PR DESCRIPTION
**Pull request by kebekus**
Given a meromorphic function on `U`, produce a divisor on `U`. Provide basic simplifier lemmas and establish behavior under (scalar) multiplication and inverses.

We implement this material in a file called `MeromorphicFunction` because future PRs will likely construct divisors attached to meromorphic differential forms.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean [hunk 1]
```diff
@@ -0,0 +1,124 @@
...
+      exists_eq_right, Pi.zero_apply, dite_eq_right_iff, WithTop.untopD_eq_self_iff,
+      WithTop.coe_zero]
+    tauto
+
+/-- Definition of the divisor. -/
+theorem divisorOn_def {f : 𝕜 → E} (hf : MeromorphicOn f U) :
+    hf.divisorOn z = if hz : z ∈ U then (hf z hz).order.untopD 0 else 0 := by rfl
+
+/-- Simplifier lemma: On `U`, the divisor of a function `f` that is meromorphic on `U` evaluates to
+  `order.toBase`. -/
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:63]:
```suggestion
  `order.untopD`. -/
```

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean [hunk 2]
```diff
@@ -0,0 +1,124 @@
...
+@[simp]
+lemma divisorOn_eval_outside_domain {f : 𝕜 → E} (hf : MeromorphicOn f U) (hz : z ∈ U) :
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:65]:
```suggestion
lemma divisorOn_apply {f : 𝕜 → E} (hf : MeromorphicOn f U) (hz : z ∈ U) :
```

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean [hunk 3]
```diff
@@ -0,0 +1,124 @@
...
+
+namespace MeromorphicOn
+
+/-!
+## Definition of the Divisor
+-/
+
+/-- The divisor of a meromorphic function `f`, mapping a point `z` to the order
+  of `f` at `z`, and to zero if the order is infinite. -/
+noncomputable def divisorOn {f : 𝕜 → E} (hf : MeromorphicOn f U) :
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:41]: I advise to make `f` explicit as well.
Lean has the tendency to hide complicated proof terms as ellipsis `...` which can become quite unhelpful if you are trying to figure out which function you are taking the divisor of.

In fact, you could consider defining the divisor for *all* functions, by defining it to be `0` for ones that are not meromorphic. If you decide to do that `hf` will of course remain an argument of most theorems below.
Also: in that case `U` should probably become explicit.

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 4]
```diff
@@ -132,6 +132,26 @@ theorem order_mul {f g : 𝕜 → 𝕜} {x : 𝕜} (hf : MeromorphicAt f x) (hg
     (hf.mul hg).order = hf.order + hg.order :=
   hf.order_smul hg
 
+/-- The order is of the inverse is the negative of the order. -/
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Order.lean:135]:
```suggestion
/-- The order of the inverse is the negative of the order. -/
```

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:41]: I perfectly understand what you are saying [constantly moving my mouse over the ellipsis to see what function we are discussing], but I need time to form an opinion.

This is a terrible trade-off. On the one hand, ellipsis are a pain. On the other hand, the notation is extremely compact and intuitive as it is. Writing `hf.divisorOn` is so much better than `MeromorphicOn.divisorOn f hf`. I need to experiment a little to see what variant will work for me.

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:41]: The suggestion defining divisors for all functions has its charm, but might later lead to conflicts when one later tries to attach a divisor to functions in other contexts. I am thinking about divisors encoding growth rates of  (sub)harmonic functions, level sets of Lelong numbers, multiplier ideals in the theory of PDEs, …

Comment (jcommelin) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:41]: Those other contexts will have their own definition, in its own namespace. So I don't think there will be a conflict.

And with `open MeromorphicOn` you would end up writing `divisorOn f hf`, which is maybe not so bad.

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean]: Ok, that got me convinced. Implemented according to your suggestion, only writing `divisor` instead of `divisorOn` because I feel if wouldn't be quite obvious what the `On` refers to.

**Comment by girving** [comment]
Won’t have time to review this one, unfortunately.

**Comment by kebekus** [comment]
@girving No worries. Thanks for answering at all!

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean [hunk 5]
```diff
@@ -0,0 +1,124 @@
...
+
+namespace MeromorphicOn
+
+/-!
+## Definition of the Divisor
+-/
+
+/-- The divisor of a meromorphic function `f`, mapping a point `z` to the order
+  of `f` at `z`, and to zero if the order is infinite. -/
+noncomputable def divisor (f : 𝕜 → E) (hf : MeromorphicOn f U) :
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:41]: This definition is now `divisor`, but all the lemma names still mention `divisorOn`. I think they should become `divisor_*`.

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:41]: I guess an explicative is in order, but this might lock me out of GitHub. I am on the train now. Will fix as soon as I arrive.

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:41]: Fixed.

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean [hunk 6]
```diff
@@ -0,0 +1,124 @@
...
+theorem divisor_smul [CompleteSpace 𝕜] {f₁ : 𝕜 → 𝕜} {f₂ : 𝕜 → E} (h₁f₁ : MeromorphicOn f₁ U)
+    (h₁f₂ : MeromorphicOn f₂ U) (h₂f₁ : ∀ z, (hz : z ∈ U) → (h₁f₁ z hz).order ≠ ⊤)
+    (h₂f₂ : ∀ z, (hz : z ∈ U) → (h₁f₂ z hz).order ≠ ⊤) :
+    divisor (f₁ • f₂) (h₁f₁.smul h₁f₂) = divisor f₁ h₁f₁ + divisor f₂ h₁f₂ := by
+  ext z
+  by_cases hz : z ∈ U
+  · simp_all [(h₁f₁ z hz).order_smul (h₁f₂ z hz)]
+    lift (h₁f₁ z hz).order to ℤ using (h₂f₁ z hz) with a₁ ha₁
+    lift (h₁f₂ z hz).order to ℤ using (h₂f₂ z hz) with a₂ ha₂
+    exact rfl
```
Comment (loefflerd) [inline Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:88]: This subproof starts with a non-terminal simp (best avoided). Here's a workaround:
```suggestion
  · lift (h₁f₁ z hz).order to ℤ using (h₂f₁ z hz) with a₁ ha₁
    lift (h₁f₂ z hz).order to ℤ using (h₂f₂ z hz) with a₂ ha₂
    simp [hz, (h₁f₁ z hz).order_smul (h₁f₂ z hz), ← ha₁, ← ha₂, ← WithTop.coe_add]
```

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean [hunk 7]
```diff
@@ -0,0 +1,124 @@
...
+    (h₁f₂ : MeromorphicOn f₂ U) (h₂f₁ : ∀ z, (hz : z ∈ U) → (h₁f₁ z hz).order ≠ ⊤)
+    (h₂f₂ : ∀ z, (hz : z ∈ U) → (h₁f₂ z hz).order ≠ ⊤) :
+    divisor (f₁ * f₂) (h₁f₁.mul h₁f₂) = divisor f₁ h₁f₁ + divisor f₂ h₁f₂ := by
+  ext z
+  by_cases hz : z ∈ U
+  · simp_all [(h₁f₁ z hz).order_mul (h₁f₂ z hz)]
+    lift (h₁f₁ z hz).order to ℤ using (h₂f₁ z hz) with a₁ ha₁
+    lift (h₁f₂ z hz).order to ℤ using (h₂f₂ z hz) with a₂ ha₂
+    exact rfl
+  · simp [hz]
```
Comment (loefflerd) [inline Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:108]:
```suggestion
    divisor (f₁ * f₂) (h₁f₁.mul h₁f₂) = divisor f₁ h₁f₁ + divisor f₂ h₁f₂ :=
  divisor_smul h₁f₁ h₁f₂ h₂f₁ h₂f₂
```
(`smul` is defeq to `mul` when it's a ring acting on itself)

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean [hunk 8]
```diff
@@ -0,0 +1,124 @@
...
+
+/-- The divisor of the inverse is the negative of the divisor. -/
+theorem divisor_inv [CompleteSpace 𝕜] {f: 𝕜 → 𝕜} (hf : MeromorphicOn f U) :
+    divisor f⁻¹ hf.inv = -divisor f hf := by
+  ext z
+  by_cases hz : z ∈ U
+  · simp only [hz, divisor_apply, DivisorOn.coe_neg, Pi.neg_apply]
+    rw [(hf z hz).order_inv]
```
Comment (loefflerd) [inline Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:116]:
```suggestion
  · simp only [hz, divisor_apply, DivisorOn.coe_neg, Pi.neg_apply, (hf z hz).order_inv]
```

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean [hunk 9]
```diff
@@ -0,0 +1,124 @@
...
+    by_cases ha : (hf z hz).inv.order = ⊤
+    · simp only [ha, WithTop.untopD_top, LinearOrderedAddCommGroupWithTop.neg_top, neg_zero]
+    lift (hf z hz).inv.order to ℤ using ha with a ha
+    rw [(by rfl : -a = (↑(-a) : WithTop ℤ)), WithTop.untopD_coe, WithTop.untopD_coe]
+    simp
```
Comment (loefflerd) [inline Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:121]: This line puzzles me slightly, since it stops working if you remove the `WithTop.untopD_coe` from the `rw` line, even though `WithTop.untopD_coe` is a simp lemma so it should be getting applied automatically by the `simp` in the next line anyway. It also doesn't work if you change `rw` to `simp_rw`, which is strange.

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean [hunk 10]
```diff
@@ -0,0 +1,124 @@
...
+
+/-!
+# The Divisor of a Meromorphic Function
+
+This file defines the divisor of a meromorphic function and proves the most
+basic lemmas about those divisors.
+
+## TODO
+
+- Remove the assumption `CompleteSpace E`.
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:18]: I am not sure. I think I know how to remove the assumption, but I do not know if that is worth the effort. At present, I am asking around to see if any of my colleagues in analysis has an opinion.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 11]
```diff
@@ -84,6 +84,11 @@ lemma coe_injective : Function.Injective (· : DivisorOn U → 𝕜 → ℤ) :=
 ## Elementary properties of the support
 -/
 
+/-- Simplifier lemma: A divisor on `U` evaluates to zero outside of `U`. -/
+@[simp]
+lemma apply_eq_zero_of_nmem {z : 𝕜} (D : DivisorOn U) (hz : z ∉ U) :
+    D z = 0 := Function.nmem_support.mp fun a ↦ hz (D.supportWithinDomain a)
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:90]: Name changed as suggested.

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean (hunk 7 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:104]: Oufz. That indeed a simplification.

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:110]: I understand your question and I have no answer. Maybe @jcommelin can explain what's going on?

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean]: Returning to this, I think Mario points out a good argument in https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Square.20root.20of.20-1.20as.20a.20Real/near/505513202 to totalize `divisor` and only take `f` (and `U`) as arguments, and drop `hf`.

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean (hunk 9 above)
Comment (jcommelin) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:110]: I don't know exactly what is going on. But this line also closes the goal.
```suggestion
    simp [eq_comm (a := a), neg_eq_iff_eq_neg, WithTop.untopD_eq_iff]
```

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean]: Will implement.

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean]: Implemented. @jcommelin Now how do you like that?

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean]: It seems that none of my colleagues is sufficiently interested. Removed the TODO.

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean [hunk 12]
```diff
@@ -0,0 +1,116 @@
...
+        hf.codiscrete_setOf_order_eq_zero_or_top]
+      simp only [Set.mem_image, Set.mem_setOf_eq, Subtype.exists, exists_and_right,
+        exists_eq_right, Pi.zero_apply, dite_eq_right_iff, WithTop.untopD_eq_self_iff,
+        WithTop.coe_zero]
+      tauto
+    · simp only [hf, false_and, ↓reduceDIte]
+      exact (Eq.eventuallyEq rfl)
+
+/-- Definition of the divisor. -/
+theorem divisor_def {f : 𝕜 → E} (U : Set 𝕜) :
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:58]:
```suggestion
theorem divisor_def (f : 𝕜 → E) (U : Set 𝕜) :
```

File: Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean [hunk 13]
```diff
@@ -0,0 +1,116 @@
...
+  guarantee conditions `h₂f₁` and `h₂f₂`.
+-/
+theorem divisor_mul [CompleteSpace 𝕜] {f₁ f₂ : 𝕜 → 𝕜} (h₁f₁ : MeromorphicOn f₁ U)
+    (h₁f₂ : MeromorphicOn f₂ U) (h₂f₁ : ∀ z, (hz : z ∈ U) → (h₁f₁ z hz).order ≠ ⊤)
+    (h₂f₂ : ∀ z, (hz : z ∈ U) → (h₁f₂ z hz).order ≠ ⊤) :
+    divisor (f₁ * f₂) U = divisor f₁ U + divisor f₂ U :=
+  divisor_smul h₁f₁ h₁f₂ h₂f₁ h₂f₂
+
+/-- The divisor of the inverse is the negative of the divisor. -/
+theorem divisor_inv [CompleteSpace 𝕜] {f: 𝕜 → 𝕜} :
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/MeromorphicFunction.lean:105]:
```suggestion
@[simp]
theorem divisor_inv [CompleteSpace 𝕜] {f : 𝕜 → 𝕜} :
```

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 14]
```diff
@@ -132,6 +132,26 @@ theorem order_mul {f g : 𝕜 → 𝕜} {x : 𝕜} (hf : MeromorphicAt f x) (hg
     (hf.mul hg).order = hf.order + hg.order :=
   hf.order_smul hg
 
+/-- The order of the inverse is the negative of the order. -/
+theorem order_inv {f : 𝕜 → 𝕜} {z₀ : 𝕜} (hf : MeromorphicAt f z₀) :
+    hf.order = -hf.inv.order := by
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Order.lean:137]: I would expect the following statement:
```suggestion
theorem order_inv {f : 𝕜 → 𝕜} {z₀ : 𝕜} (hf : MeromorphicAt f z₀) :
    hf.inv.order = -hf.order := by
```
If you agree, could you please adjust the proof accordingly?

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 15]
```diff
@@ -132,6 +132,26 @@ theorem order_mul {f g : 𝕜 → 𝕜} {x : 𝕜} (hf : MeromorphicAt f x) (hg
...
+  -- Trivial case: f locally zero
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Order.lean:138]: Personally, I think I would drop the comment. But I'm also happy with keeping it. In the latter case, please add a comment for the non-trivial case as well.

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 14 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Order.lean]: Implemented.

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 15 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Order.lean]: Comment dropped.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by kebekus** [comment]
@loefflerd @jcommelin Thanks!
